US07288544B2
4) Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-3-(3-phenylpropyl)-5-(piperazine-1-carbonyl) nicotinamide:
619 mg (1.05 mmol) of 4-[4-(3-chlorophenyl)-2,6-dimethyl-5-(3-phenylpropylcarbamoyl) pyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester was dissolved in 30 ml of dichloromethane. 15 ml of trifluoroacetate was added and stirred at room temperature for 2 hours. After concentration under reduced pressure, saturated aqueous sodium hydrogencarbonate solution was added and the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. By adding hexane to the residue, the solid substance was precipitated, filtered and dried under reduced pressure to obtain the title compound.

reactant | 4-[4-(3-chlorophenyl)-2,6-dimethyl-5-(3-phenylpropylcarbamoyl) pyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester | 1.05 mmol, 619 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1C(=NC(=C(C1C1=CC(=CC=C1)Cl)C(NCCCC1=CC=CC=C1)=O)C)C | C33H39ClN4O4
reactant | trifluoroacetate | 15 ml | FC(C(=O)[O-])(F)F
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-(3-chlorophenyl)-2,6-dimethyl-3-(3-phenylpropyl)-5-(piperazine-1-carbonyl) nicotinamide | ClC=1C=C(C=CC1)C1=C(C(=NC(C1(C(=O)N)CCCC1=CC=CC=C1)C)C)C(=O)N1CCNCC1 | C28H33ClN4O2
